US06995182B2
To a stirred solution of (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid methyl ester (1.5 g, 3.7 mmol) in MeOH (15 ml) was added hydrazine hydrate (0.54 ml, 11.1 mmol) and p-TsOH (10 mg) and the reaction mixture was heated under reflux conditions for 24 h. Evaporation and purification by column chromatography on silica gel (dichloromethane/MeOH 19:1) yielded (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid hydrazide (1.25 g, 83%) as a white solid.

reactant | (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid methyl ester | 3.7 mmol, 1.5 g | COC(CCC1N(C(CC1)C1=CC=C(C=C1)F)S(=O)(=O)C1=CC=C(C=C1)C)=O | C21H24FNO4S
reactant | hydrazine hydrate | 11.1 mmol, 0.54 ml | O.NN
solvent | MeOH | 15 ml | CO | CH4O
catalyst | p-TsOH | 10 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
product | (2RS,5SR)-3-[5-(4-fluoro-phenyl)-1-(toluene-4-sulfonyl)-pyrrolidin-2-yl]-propionic acid hydrazide | 1.25 g, 83% | FC1=CC=C(C=C1)C1CCC(N1S(=O)(=O)C1=CC=C(C=C1)C)CCC(=O)NN | C20H24FN3O3S
